US08293763B2
Step 1: 8-(4-Cyclopropyl-2-fluoro-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid methyl ester
A suspension of 8-chloro-imidazo[1,5-a]pyridine-7-carboxylic acid methyl ester (105 mg, 0.50 mmol), 4-cyclopropyl-2-fluoroaniline (101 mg, 0.60 mmol), Pd2dba3 (18 mg, 0.02 mmol), 2-dicyclohexylphosphino-2′,6′-diisopropoxybiphenyl (37 mg, 0.08 mmol) and K3PO4 (148 mg, 0.70 mmol) in toluene (2 mL) was degassed and then heated to 100° C. for 24 hours. The reaction mixture was then cooled to room temperature and diluted with ethyl acetate. The resultant solution was washed with water and brine, then loaded onto a 10 g Isolute® SCX-2 cartridge which was eluted with methanol followed by a 2M solution of ammonia in methanol. The appropriate fractions were combined and concentrated. The resultant residue was subjected to flash chromatography (Si-PPC, gradient 0% to 10%, ethyl acetate in dichloromethane) to afford the title compound as a yellow oil (68 mg, 42%). LCMS (method B): RT=3.45 min, [M+H]+=326.

reactant | 8-chloro-imidazo[1,5-a]pyridine-7-carboxylic acid methyl ester | 0.50 mmol, 105 mg | COC(=O)C1=C(C=2N(C=C1)C=NC2)Cl | C9H7ClN2O2
reactant | 4-cyclopropyl-2-fluoroaniline | 0.60 mmol, 101 mg | C1(CC1)C1=CC(=C(N)C=C1)F | C9H10FN
reactant | 2-dicyclohexylphosphino-2′,6′-diisopropoxybiphenyl | 0.08 mmol, 37 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC(C)C)OC(C)C)C1CCCCC1 | C30H43O2P
reactant | K3PO4 | 0.70 mmol, 148 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2dba3 | 0.02 mmol, 18 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 8-(4-Cyclopropyl-2-fluoro-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid methyl ester | 68 mg, 42% | COC(=O)C1=C(C=2N(C=C1)C=NC2)NC2=C(C=C(C=C2)C2CC2)F | C18H16FN3O2
